* coarse_clamp.spice -- where does the coarse loop actually hold vcoarse's top rail?
*
* vcoarse seeded at 1.20 V falls to ~0.91 V in 2.5 us with vctrl at the null,
* standalone (coarse_startup.spice), starting at ~3.7 uA -- far more than any
* designed branch current.  Hypothesis: XMU1, the pull-up pMOS pair's output
* device, has its drain on vcoarse; once vcoarse rises above the pull-up tail
* node spu, drain and source swap and XMU1 SINKS vcoarse into spu and on through
* XMU2 to VSS.  Force vcoarse with a source and read the current the cell pulls:
* positive = cell sources into vcoarse, negative = cell sinks it.  Where it
* crosses zero is the real top rail.  vctrl at VDD/2, the window centre.
* coarse_tb.spice -- the coarse loop on its own, with vctrl driven by hand.
*
* No ring and no CDR here: vctrl is a PWL that plays the part the closed loop
* would.  That is the point of running it this way.  A closed-loop transient
* long enough to contain a real acquisition -- tens of microseconds -- would
* cost hours on this machine, and it would confound every question with every
* other.  This deck answers them one at a time in a few seconds each:
*
*   1. does the retrace self-start from a cold 0 V capacitor, and where does it
*      park?  (it must park at the SLOW end, or the search starts in the wrong
*      place)
*   2. with vctrl railed high, does vcoarse ramp at the designed rate, does the
*      wrap fire, and does the search repeat?
*   3. when vctrl comes back into the window, does the ramp stop?
*   4. does it then HOLD -- against the capacitor's own leakage and against
*      vctrl wandering by more than the fine loop's worst measured ripple?
*   5. and if vctrl goes below the window, does the loop push back the other
*      way?  (this is the half that a pure acquisition sweep does not have, and
*      it is what makes the hold immune to leakage rather than merely slow)
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib  mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib    res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib    cap_typ

.include coarse_loop.inc

.global sub!
Vsub sub! 0 0

VDD VDD 0 1.2
VSS VSS 0 0
* The chip's bias pad: 40 uA into the diode-connected reference.
Ib  0 ibias dc 40u
XMREF ibias ibias 0 0 sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1
* 100 fF on the bias node.  In the real macro ibias carries the CTLE's and the
* CDR's mirrors and the pad; here it carries four gates and an ideal current
* source, which is numerically stiff -- at -40 C the retrace edge killed the
* run outright with "Timestep too small, trouble with node ibias".  This is a
* testbench fix for a testbench artefact; the retrace device was weakened
* separately, for the part of it that is a real disturbance.
Cbias ibias 0 100f

* vctrl: railed high for 150 us so the search has to run and wrap several
* times, then a staircase through the window.
*
* The staircase is the real measurement, and it replaces a test that was asking
* the wrong question.  The window is not a dead zone: at these currents the
* input pairs are in weak inversion and steer over about 130 mV, so between the
* thresholds *both* are partly on and the loop settles where they balance.  So
* "does vcoarse hold at vctrl = 0.599?" has no good answer -- vcoarse holds at
* whatever vctrl the null happens to be at, and drifts everywhere else, which
* is the loop working, not failing.  The question worth asking is where that
* null is, because in the closed loop it is the vctrl the receiver ends up
* sitting at.  So: step vctrl across the window and measure dvcoarse/dt at each
* step.  The null is where it changes sign.
* Startup diagnostic.  In e2e_dual, vcoarse seeded at 1.20 V fell 286 mV in
* 2.5 us while vctrl sat at the 0.60 V null -- starting at -3.5 V/us, which is
* ~3.7 uA out of Ccoarse and far beyond the pull-down branch's current, and
* decaying to -12 mV/us.  Hypothesis: an internal mirror node starts at an
* inconsistent value and discharges slowly through a subthreshold device,
* keeping XMN2 sinking.  Hold vctrl at the null, start vcoarse at 1.20 V,
* trace the mirror nodes.  No ring, so this costs seconds.
Vct vctrl 0 dc 0.600

x1 VDD VSS ibias vctrl vcoarse coarse_loop

Vfrc vcoarse 0 dc 1.20

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control

set temp = 27
alter VDD = 1.2
alter Vct dc = 0.600
echo "=== COND 27C 1.2V vctrl=0.600"
foreach vf 0.600 0.700 0.800 0.850 0.900 0.950 1.000 1.100 1.200
 alter Vfrc dc = $vf
 op
 let p_vf = $vf
 let i_into_vcoarse_nA = -1e9*i(Vfrc)
 let v_spu = v(x1.spu)
 print p_vf i_into_vcoarse_nA v_spu
 echo "ROWEND"
end

set temp = 125
alter VDD = 1.32
alter Vct dc = 0.660
echo "=== COND 125C 1.32V vctrl=0.660"
foreach vf 0.600 0.700 0.800 0.850 0.900 0.950 1.000 1.100 1.320
 alter Vfrc dc = $vf
 op
 let p_vf = $vf
 let i_into_vcoarse_nA = -1e9*i(Vfrc)
 let v_spu = v(x1.spu)
 print p_vf i_into_vcoarse_nA v_spu
 echo "ROWEND"
end

set temp = 27
alter VDD = 1.08
alter Vct dc = 0.540
echo "=== COND 27C 1.08V vctrl=0.540"
foreach vf 0.600 0.700 0.800 0.850 0.900 0.950 1.000 1.100 1.080
 alter Vfrc dc = $vf
 op
 let p_vf = $vf
 let i_into_vcoarse_nA = -1e9*i(Vfrc)
 let v_spu = v(x1.spu)
 print p_vf i_into_vcoarse_nA v_spu
 echo "ROWEND"
end

quit
.endc
.end
